US06080773
To a stirred suspension of 11.8 g of dicalite in 100 ml of dry methylene chloride was added 7.38 g of chromium trioxide. The suspension was stirred for 30 min then a solution of (2-fluoropyridin-3-yl)-2-(diethoxymethyl)-phenylmethanol in 100 ml of methylene chloride was added. The supension was stirred overnight. The suspension was filtered through dicalite and washed with methylene chloride. The filtrate was washed with 100 ml portions of 1 M sodium hydroxide solution, water and brine and evaporated and azeotroped with toluene. Flash chromatography eluting with 30 to 50% ethyl acetate in heptane afforded (2-fluoropyridin-3-yl)-2-(diethoxymethyl)-phenylmethanone as a gum; 1H-NMR (200 MHz, CDCl3) d 5.60 (CHOEt),

reactant | dicalite | 11.8 g | O=[Si]=O | O2Si
reactant | (2-fluoropyridin-3-yl)-2-(diethoxymethyl)-phenylmethanol | FC1=NC=CC=C1C(O)C1=C(C=CC=C1)C(OCC)OCC | C17H20FNO3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | chromium trioxide | 7.38 g | [O-2].[O-2].[O-2].[Cr+6]
product | (2-fluoropyridin-3-yl)-2-(diethoxymethyl)-phenylmethanone | FC1=NC=CC=C1C(=O)C1=C(C=CC=C1)C(OCC)OCC | C17H18FNO3
